US08030498B2
To a solution of 3-(2-methoxyethoxy)-2-methyl-4-(methylsulfonyl)benzoic acid (200 mg, 6.90×10−4 mol) in chloroform (15 mL) were added oxalyl chloride (0.5 mL) and DMF in a catalytic amount. The reaction mixture was stirred at room temperature for 30 minutes, and the solvent was distilled off under reduced pressure. The residue was dissolved in anhydrous THF (20 mL), and 5-hydroxy-1-ethylpyrazole hydrochloride (134 mg, 9.01×10−4 mol), triethylamine (139 mg) and N,N-dimethylaminopyridine (170 mg) were added. The mixture was heated at refluxed temperature for 1 hour. The reaction mixture was allowed to cool to room temperature, and then ethyl acetate (200 mL) was added. The mixture was washed twice with a saturated brine, and the organic layer was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue was dissolved in anhydrous acetonitrile (10 mL), and triethylamine (139 mg) and acetone cyanohydrin in a catalytic amount were added, followed by stirring for 12 hours at room temperature. The solvent was distilled off under reduced pressure to obtain crude 5-hydroxy-1-ethylpyrazol-4-yl 3-(2-methoxyethoxy)-2-methyl-4-(methylsulfonyl)phenyl ketone.

reactant | 3-(2-methoxyethoxy)-2-methyl-4-(methylsulfonyl)benzoic acid | 6.90×10−4 mol, 200 mg | COCCOC=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)C | C12H16O6S
reactant | oxalyl chloride | 0.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
reactant | 5-hydroxy-1-ethylpyrazole hydrochloride | 9.01×10−4 mol, 134 mg | Cl.OC1=CC=NN1CC
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 139 mg | C(C)N(CC)CC | C6H15N
product | 5-hydroxy-1-ethylpyrazol-4-yl 3-(2-methoxyethoxy)-2-methyl-4-(methylsulfonyl)phenyl ketone | COCCOC=1C(=C(C=CC1S(=O)(=O)C)C(=O)C=1C=NN(C1O)CC)C | C17H22N2O6S
